US05489623
4,4'-Bis(2-bromotetrafluoroethoxy)-α-methylstilbene:
4,4'-bis(hydroxy)-α-methylstilbene (100.0 g, 0.442 mole) is added to a 3 liter, 4 necked round bottomed flask along with DMSO (dimethylsulfoxide) (1150 ml) and toluene (350 ml). The resulting mixture is deoxygenated with nitrogen for 15 minutes, then KOH (58.4 g, 0.884 mole as 85 percent pellets, the remaining 15 percent being water) is added all at once. The mixture is stirred and heated to reflux, and water is removed azeotropically by distillation of the water/toluene azeotrope for a total of 10 hours. A Soxhlet extractor containing a drying bed of anhydrous Na2SO4 is placed on the reactor, and the toluene is refluxed through this drying bed to remove residual water. Toluene (260 ml) is removed by simple distillation, then the remaining mixture is cooled to 24° C. 1,2-Dibromotetrafluoroethane (276 g, 1.06 mole) is added slowly over 30 minutes, and the reaction mixture is stirred at 24° C. for 8 hours. After filtration and evaporation, the residue is flushed through a column of alumina using hexane as the eluent. Hexane is removed by evaporation, and the resulting residue weighs 109.4 g (0.19 mole) for an isolated yield of 42 percent.

reactant | 4,4'-bis(hydroxy)-α-methylstilbene | 0.442 mole, 100.0 g | OC1=CC=C(C=C1)C(=CC1=CC=C(C=C1)O)C | C15H14O2
reactant | DMSO | 1150 ml | CS(=O)C | C2H6OS
reactant | 1,2-Dibromotetrafluoroethane | 1.06 mole, 276 g | BrC(C(Br)(F)F)(F)F | C2Br2F4
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4,4'-Bis(2-bromotetrafluoroethoxy)-α-methylstilbene | yield of 42 percent | BrC(C(OC1=CC=C(C=C1)C(=CC1=CC=C(C=C1)OC(C(Br)(F)F)(F)F)C)(F)F)(F)F | C19H12Br2F8O2
